US04303660
19.8 g (0.1 mole) of 1-aminopyrazolo[1,5-c]quinazoline are boiled with 100 ml of acetic anhydride for 1 hour. On cooling the product separates. After filtration, washing and drying, 22.0 g (90%) of 1-acetaminopyrazolo[1,5-c]quinazoline are obtained. M.p.: 256°-258° C.

reactant | 1-aminopyrazolo[1,5-c]quinazoline | 0.1 mole, 19.8 g | NC=1C=NN2C=NC=3C=CC=CC3C21 | C10H8N4
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetaminopyrazolo[1,5-c]quinazoline | 22.0 g, 90% | N(C(=O)C)C=1C=NN2C=NC=3C=CC=CC3C21 | C12H10N4O
